US06455528B1
(3) N-(4-(1-Chloroethyl)phenylmethyl)acetamide
To a solution of N-(4-(1-hydroxyethyl)phenylmethyl)acetamide (5.26 g) in chloroform (40 ml) was added dropwise a solution of thionyl chloride (2.1 ml) in chloroform (10 ml) at below 5° C. over 20 min. The mixture was stirred at 30° C. for 1 hr. The mixture was poured into a saturated sodium hydrogencarbonate solution and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (elution solvent; methanol:chloroform=4:96) to give the title compound (4.08 g) as white crystals.

reactant | N-(4-(1-hydroxyethyl)phenylmethyl)acetamide | 5.26 g | OC(C)C1=CC=C(C=C1)CNC(C)=O | C11H15NO2
reactant | thionyl chloride | 2.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(1-Chloroethyl)phenylmethyl)acetamide | 4.08 g | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
